US05858995
A mixture of 7-amino-2,3-dimethylbenzo[b]furan (100 mg) and 6-chloro-N-methylisatoic anhydride (147 mg) in acetic acid (2 ml) was stirred at 60° C. for 2 hours. The reaction mixture was concentrated in vacuo and the residue was crystallized from a mixture of ethanol and water to give 2,3-dimethyl-7-(2-chloro-6-methylaminobenzoylamino)benzo[b]furan (210 mg)

reactant | 7-amino-2,3-dimethylbenzo[b]furan | 100 mg | NC1=CC=CC2=C1OC(=C2C)C | C10H11NO
reactant | 6-chloro-N-methylisatoic anhydride | 147 mg | ClC=1C=CC=C2C1C(=O)OC(N2C)=O | C9H6ClNO3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2,3-dimethyl-7-(2-chloro-6-methylaminobenzoylamino)benzo[b]furan | 210 mg | CC1=C(C2=C(O1)C(=CC=C2)NC(C2=C(C=CC=C2NC)Cl)=O)C | C18H17ClN2O2
